US05958942
1-[3-(Amino)propan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 3.47 g (9.63 mmol) of 1,2-dihydro-3-methyl-1-[3-(phthalimido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 70 ml of ethanol was added 1.45 g (29.0 mmol) of hydrazine monohydrate. The mixture was heated for 2 hours under reflux. After cooling, and the resulting precipitates were filtered off. The filtrate was concentrated to give the residue, water was added, extracted with chloroform (three times). The extract was dried over anhydrous magnesium sulfate, then the solvent was distilled off to give 1.68 g of the desired compound (75.8%, pale yellow solid substance).

reactant | 1,2-dihydro-3-methyl-1-[3-(phthalimido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 9.63 mmol, 3.47 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCCN2C(C=3C(C2=O)=CC=CC3)=O)=O | C20H16N4O3
reactant | hydrazine monohydrate | 29.0 mmol, 1.45 g | O.NN
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1-[3-(Amino)propan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 1.68 g, 75.8% | NCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C12H14N4O
